US09301529B2
To a 100 mL round-bottom flask, 0.1 mol of 2-amino-3,5-dichlorobenzoic acid methyl ester having a structure as shown in VIII-1, 100 mL of methanol, and 0.4 mol of tert-butylamine were added, heated to 64° C. and reacted for 5 hours, after treatment 23.5 grams of N-tert-butyl-2-amino-3,5-dichlorobenzamide having a structural formula of III-1 was obtained, and the yield was 90.4%;

reactant | 2-amino-3,5-dichlorobenzoic acid methyl ester | 0.1 mol | COC(C1=C(C(=CC(=C1)Cl)Cl)N)=O | C8H7Cl2NO2
reactant | tert-butylamine | 0.4 mol | C(C)(C)(C)N | C4H11N
solvent | methanol | 100 mL | CO | CH4O
product | N-tert-butyl-2-amino-3,5-dichlorobenzamide | 23.5 grams, yield was 90.4% | C(C)(C)(C)NC(C1=C(C(=CC(=C1)Cl)Cl)N)=O | C11H14Cl2N2O
